Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography with primary percutaneous intervention with 
deployment of a drug-eluting stent in the RCA
 
History of Present Illness:
Patient is a ___ yo Caucasian man with H/O NIDDM, hyperlipidemia, 
hypertension and gout who presented with ___ days of 
intermittent morning chest pressure and sudden onset of 
persistent chest pain on the morning of presentation and was 
found to have inferior wall ST segment elevation myocardial 
infarction (STEMI). 

Patient states that for the past ___ days, he noticed that he 
was having chest pain between ___ in the morning that would last 
<3 minutes. These would also occur upon first awakening in the 
morning over this time period. He described the pain as heavy 
and pressure like without association of back pain, arm, neck, 
jaw pain, numbness or tingling. There was also no associated 
shortness of breath or diaphoresis. He had never experienced 
symptoms like this before.

He states one day prior to presentation, he started drinking at 
noon and had between ___ beers consistent with his normal 
___ routine (he does not drink during the week at all) and 
came home and passed out in the evening without symptoms. Then, 
the morning of the day of presentation, he woke up at 4:30 with 
crushing chest pain which he tried to wait out as he did with 
his prior episodes, however it persisted. At 0530, he drove 
himself to ___ where he was found to have inferior 
wall MI with ST elevations  III>II, aVF. He was transferred to 
the ___ where emergent coronary angiography found an ulcerated 
subtotal occlusion of RCA treated successfully with 1 DES, ASA 
and ticagralor; he also had a 40% distal LMCA stenosis.
 
Past Medical History:
-Diabetes (NIDDM)
-Hypertension  
-Dyslipidemia  
-Gout
-Obesity
-Alcoholism-Binge Drinking Type
-Smoking (2 ppd x ___ yr = 60 pyh)
 
Social History:
___
Family History:
Strong family history of diabetes mellitus. + family H/O 
hypertension. No family H/O heart attack, stroke or early or 
sudden cardiac death. Maternal hypothyroidism. MGM with 
laryngeal/vocal cord cancer.
 
Physical Exam:
On admission
GENERAL: Young white man in NAD. Oriented x3. Mood, affect 
appropriate.
VS: T 98.1 BP 139/86 HR 94 RR18 SaO2 98% on RA; FSBS: 97
Tele: NSR
Weight: 112.6 kg (admit)
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple without JVP. No carotid bruit.
CARDIAC: Regular. normal S1, S2. No murmurs, rubs, gallops.
LUNGS: CTA bilaterally--no crackles, wheezes or rhonchi. Resp 
were unlabored, no accessory muscle use. 
ABDOMEN: Protuberent. Soft, non-tender, not distended. No HSM or 
tenderness.
EXTREMITIES: Warm. No clubbing, cyanosis or edema. Right radial 
arteriotomy site with dried blood. No hematoma. Right hand 
neurovascularly intact. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric.

At discharge
GENERAL: NAD. Oriented x3. Mood, affect appropriate.    
VS: T 97.9 BP 135/84 HR 67 RR 18 O2 sat 97% on RA
NECK: Supple without JVP. No carotid bruit.
CARDIAC: Regular. normal S1, S2. No murmurs, rubs, gallops.  
LUNGS: CTA bilaterally: no crackles, wheezes or rhonchi. Resp 
were unlabored, no accessory muscle use.
ABDOMEN: Protuberent. Soft, non-tender, not distended. No HSM or 
tenderness.  
EXTREMITIES: Warm. No clubbing, cyanosis or edema. Right radial 
arteriotomy site with dried blood. No hematoma. Right hand 
neurovascularly intact. 
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
___ 06:53AM BLOOD WBC-13.0* RBC-4.84 Hgb-14.9 Hct-42.9 
MCV-89 MCH-30.8 MCHC-34.7 RDW-13.4 RDWSD-43.6 Plt ___
___ 06:53AM BLOOD Neuts-66.6 ___ Monos-7.1 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-8.70* AbsLymp-3.15 AbsMono-0.92* 
AbsEos-0.13 AbsBaso-0.06
___ 06:53AM BLOOD ___ PTT-27.7 ___

___ 10:45AM BLOOD Glucose-97 UreaN-12 Creat-0.6 Na-141 
K-4.0 Cl-108 HCO3-20* AnGap-17
___ 10:45AM BLOOD ALT-29 AST-20 CK(CPK)-177 AlkPhos-109 
TotBili-0.6
___ 10:45AM BLOOD Albumin-4.3 Calcium-8.8 Phos-3.6 Mg-2.0
___ 04:50PM BLOOD %HbA1c-6.6* eAG-143*
___ 04:50PM BLOOD TCholest-127 Triglyc-142 HDL-30 
CHOL/HD-4.2 LDLcalc-69

___ 06:53AM BLOOD cTropnT-<0.01
___ 10:45AM BLOOD CK-MB-12* MB Indx-6.8* cTropnT-0.35*
___ 04:50PM BLOOD CK-MB-22* cTropnT-0.72*
___ 08:00AM BLOOD CK-MB-11* MB Indx-5.9

___ 07:50AM BLOOD WBC-10.5* RBC-4.95 Hgb-15.3 Hct-44.1 
MCV-89 MCH-30.9 MCHC-34.7 RDW-13.4 RDWSD-43.8 Plt ___
___ 07:50AM BLOOD Glucose-145* UreaN-9 Creat-0.6 Na-139 
K-4.5 Cl-103 HCO3-23 AnGap-18
___ 07:50AM BLOOD ALT-27 AST-17 AlkPhos-120 TotBili-0.6
___ 07:50AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.9

ECG ___ 6:46:56 AM
Sinus rhythm. Early R wave transition. Marked ST segment 
elevations inferiorly consistent with acute myocardial injury. 
Lateral ST segment depressions consistent with ongoing ischemia. 
No previous tracing available for comparison. 

ECG ___ 7:53:52 AM
Sinus rhythm. Premature ventricular complexes. Non-specific ST 
segment changes. Compared to tracing #1 the ventricular rate is 
faster and ventricular ectopy is now appreciated. Markedly ST 
segment elevations inferiorly and ST segment depressions in the 
lateral and high lateral leads are no longer appreciated.

ECG ___ 8:22:18 AM
Sinus rhythm. Early R wave transition. Non-specific ST segment 
changes inferiorly. Compared to tracing #2 the ventricular rate 
is markedly slower and ventricular ectopy is no longer 
appreciated. Consistent T wave inversions are now appreciated 
inferiorly consistent with probable evolving myocardial 
infarction.

Coronary angiography ___
Coronary Anatomy
Dominance: Right
  The LMCA had distal 40% stenosis. There were mild luminal 
irregularities in the LAD. The Cx had mild luminal 
irregularities. The RCA had a proximal ulcerated 90% lesion.
Interventional Details
  A 6 ___ JR4 guiding catheter was used to engage the RCA and 
provided sub-optimal support. A 180 cm ChoICE ___ XS guidewire 
was then successfully delivered across the lesion. Predilated 
with a 2.5 mm balloon. Deployed a 3.0 x 26 mm Resolute stent. 
Final angiography revealed normal flow, no dissection and 0% 
residual stenosis.

Impressions:
1. Inferior STEMI successfully treated with primary PCI using 
DES.
Recommendations
1. Secondary prevention CAD.
2. ASA 81 mg a day.
3. Ticagrelor 90 mg BID. Give dose tonight.
4. Smoking cessation.

Echocardiogram ___
The left atrium is mildly dilated. The left atrium is elongated. 
The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
basal inferior akinesis and inferolateral hypokinesis. The 
remaining segments contract normally. Quantitative (3D) LVEF = 
44%. Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. An eccentric, posteriorly-directed jet of mild (1+) 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion.
IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Mild ischemic mitral regurgitation.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of hypertension, 
hyperlipidemia, diabetes mellitus, significant tobacco and 
alcohol use who presented with chest pain and was found to be 
suffering an inferior wall STEMI with 90% stenosed ulcerated RCA 
treated successfully with one drug eluting stent with 
restoration of blood flow. He was started on a beta blocker and 
dual antiplatelet therapy with ticagrelor and aspirin.

# STEMI: Patient presented to ___ and was found to 
be having an acute inferior wall STEMI on EKG. He was 
transferred to ___ for coronary angiography which showed a 40% 
distal LMCA lesion and a 90% stenosed RCA. Blood flow was 
restored with a drug eluting stent deployed to the RCA. He was 
started on a beta blocker and dual antiplatelet therapy with 
ticagrelor and aspirin in addition to continuing his home 
medications. Peak CK-MB was 22. Post PCI, he had mild 
palpitations which correlated with short runs of non sustained 
ventricular tachycardia on telemetry. He was not having 
palpitations at the time of discharge with telemetry showing 
intermittent, asymptomatic PVCs on metoprolol. Echocardiogram on 
___ showed an EF 44% with basal inferior akinesis and 
inferolateral hypokinesis. The remaining segments contract 
normally. The importance of smoking cessation and benefits of 
outpatient cardiac rehabilitation were discussed with the 
patient, along with the importance of uninterrupted dual 
anti-platelet therapy. The patient was provided with a 
prescription and referral information for outpatient cardiac 
rehabilitation.

His discharge medications are as follows:
- ASA 81 mg
- Ticagrelor 60 mg BID
- Atorvastatin 80 mg 
- Metoprolol succinate 100 mg daily 
- Lisinopril 10mg daily 

# Lifestyle Modification: Patient is overweight and has a 
significant history of tobacco and alcohol use. We discussed the 
importance of lifestyle modification to improve his health. 
- Nicotine patch provided during hospitalization and discharge. 
- Alcohol use counseling provided
- Discussed diet

# ___ mellitus. Metformin held for 48 hours after 
administration of iodinated contrast for his coronary 
angiography and PCI. HbA1c 6.6%.

*****TRANSITIONAL ISSUES*****
# CODE: Full Code
# Contact/HCP: ___
# Cardiac rehab as outpatient
# Discharge weight: 98.3 kg 
# Started dual anti-platelet therapy with ASA and ticagrelor s/p 
stent. He should NOT exceed more than 100 mg of aspirin daily 
while on ticagrelor.
# Started beta blocker post-MI
# Smoking cessation - prescribed nicotine patch but likely needs 
more support with personalizing a quit plan. 
# Binge drinking - alcohol counseling provided, continue as 
outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Lisinopril 10 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
 
Discharge Medications:
1.  Metoprolol Succinate XL 100 mg PO DAILY 
2.  Nicotine Patch 14 mg TD DAILY 
3.  TiCAGRELOR 90 mg PO BID 
4.  Aspirin 81 mg PO DAILY 
5.  Atorvastatin 80 mg PO QPM 
6.  Lisinopril 10 mg PO DAILY 
7.  MetFORMIN (Glucophage) 1000 mg PO BID 
8.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Inferior wall ST elevation myocardial infarction involving the 
right coronary artery.
-Tobacco (cigarette) depedence
-Alcohol abuse
-Diabetes mellitus, type 2
-Hypertension
-Hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your stay at ___ 
___.  

You came to the hospital because you were having chest pain.  
Your lab tests and heart's electrical activity indicated you 
were having a type of heart attack known as "STEMI".  A cardiac 
catheterization was performed and a stent was placed in a 
blocked coronary artery to restore blood flow to your heart. 

It is VERY important to take your new medications every day as 
prescribed.  This will reduce the chances of serious 
complications from your heart attack such as the stent closing 
or having irregular heart rhythms.  

We also discussed the need for several lifestyle modifications, 
most importantly quitting smoking.  Your primary care doctor can 
help you create a personalized quit plan that will have the 
highest chance of success. 

You will need to have labs drawn ___ and then follow up with 
your primary care doctor and ___ cardiologist - see appointments 
below.

Best, 

Your ___ medical team 
 
Followup Instructions:
___